US05783522
3-Chloro-2-(4-chloro-3-hydroxyphenyl)-5-trifluoromethylpyridine (Table 1, Example I.021)
20.0 g (62.1 mmol) of 3-chloro-2-(4-chloro-3-methoxyphenyl)-5-trifluoromethylpyridine in 110 ml of 47% strength aqueous hydrobromic acid were refluxed for five hours. The reaction mixture was then diluted, while cooling in ice, with about 400 ml of water and extracted three times with 150 ml of methylene chloride each time. The combined organic phases were dried over sodium sulfate and evaporated to give a residue of 17.9 g (94%) of colorless crystals of melting point 105°-107° C.

reactant | 3-chloro-2-(4-chloro-3-methoxyphenyl)-5-trifluoromethylpyridine | 62.1 mmol, 20.0 g | ClC=1C(=NC=C(C1)C(F)(F)F)C1=CC(=C(C=C1)Cl)OC | C13H8Cl2F3NO
reactant | hydrobromic acid | Br | BrH
solvent | water | about 400 ml | O | H2O
product | 3-Chloro-2-(4-chloro-3-hydroxyphenyl)-5-trifluoromethylpyridine | 17.9 g, 94% | ClC=1C(=NC=C(C1)C(F)(F)F)C1=CC(=C(C=C1)Cl)O | C12H6Cl2F3NO
